US05998412
A solution of 5-cyanoindole (10.00 g, 70.34 mmol) in acetonitrile (120 ml) was added to a solution of 1-benzyloxycarbonyl-4-piperidone (8.20g, 35.17 mmol) and trimethylsilyl trifluoromethanesulfonate (6.80 ml, 35.17 mmol) in acetonitrile (230 ml) via addition funnel at 0° C. over 1.5 h. Triethylsilane (4.2 ml, 26.28 mmol) was added at 0° C. and reaction mixture was allowed to gradually warm to RT over 2 h. The reaction mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate, brine, dried over MgSO4, and concentrated in vacuo. The residue was diluted with acetonitrile (300 ml) and hexanes (200 ml) and stirred for 20 min. The organics were removed in vacuo and the residue was chromatographed (SiO2, 20-40% ethyl acetate/hexanes) to give 1-benzyloxycarbonyl-4-(5-cyanoindol-3-yl)piperidine as a white crystalline solid (59%).

reactant | 5-cyanoindole | 70.34 mmol, 10.00 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | 1-benzyloxycarbonyl-4-piperidone | 35.17 mmol, 8.20g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | trimethylsilyl trifluoromethanesulfonate | 35.17 mmol, 6.80 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | Triethylsilane | 26.28 mmol, 4.2 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | acetonitrile | 230 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyloxycarbonyl-4-(5-cyanoindol-3-yl)piperidine | 59% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)C#N | C22H21N3O2
